US04863904
To a solution of 1.1 g of 2-(1-naphthylmethyl)malonic acid diethyl ester in 20 ml of dry 1,2-dimethoxyethane was added 0.22 g of a 50% sodium hydride (suspension in oil) under cooling, the mixture was stirred for 1 hour. To the reaction mixture was added 1.0 g of 4,4-ethylenedioxy-4-phenylbutyl bromide obtained, the mixture was heated under reflux for 17 hours. After cooling, water was added to the reaction mixture, and the mixture was extracted with diethyl ether. The ethereal layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel flash column chromatography (eluent: benzene/hexane=1/1 by volume) to obtain 1.2 g of 2-(4,4-ethylenedioxy-4-phenylbutyl)-2-(1-naphthylmethyl)malonic acid diethyl ester.

reactant | 2-(1-naphthylmethyl)malonic acid diethyl ester | 1.1 g | C(C)OC(C(C(=O)OCC)CC1=CC=CC2=CC=CC=C12)=O | C18H20O4
reactant | sodium hydride | [H-].[Na+]
reactant | 4,4-ethylenedioxy-4-phenylbutyl bromide | 1.0 g | C1OC(CCCBr)(C2=CC=CC=C2)OC1 | C12H15BrO2
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | 2-(4,4-ethylenedioxy-4-phenylbutyl)-2-(1-naphthylmethyl)malonic acid diethyl ester | 1.2 g | C(C)OC(C(C(=O)OCC)(CC1=CC=CC2=CC=CC=C12)CCCC1(C2=CC=CC=C2)OCCO1)=O | C30H34O6
